### PR TITLE
[Merged by Bors] - feat(Data/Matroid/Circuit): circuit elimination and finitary matroids

### PR DESCRIPTION
**Pull request by apnelson1**
We add various version of the circuit elimination axiom, and some lemmas about finitary matroids. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matroid/Circuit.lean [hunk 1]
```diff
@@ -319,4 +336,129 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
   ⟨fun h ↦ by simp [h], fun h ↦ ext_circuit h.1 fun C hC ↦ h.2 (C := C)⟩
 
+section Elimination
+
+/-! ### Circuit Elimination -/
+
+variable {ι : Type*} (x : ι → α) (Is Cs : ι → Set α) {z : α} {C₁ C₂ : Set α}
+
+/-- A version of `Matroid.Circuit.strong_multi_elimination` that is phrased using insertion. -/
+lemma strong_multi_elimination_insert (h_not_mem : ∀ i, x i ∉ Is i) {J : Set α}
```
Comment (madvorak) [inline Mathlib/Data/Matroid/Circuit.lean:346]: The name `h_not_mem` is weird.

File: Mathlib/Data/Matroid/Circuit.lean [hunk 2]
```diff
@@ -319,4 +336,129 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
     M₁ = M₂ ↔ M₁.E = M₂.E ∧ ∀ C, M₁.Circuit C ↔ M₂.Circuit C :=
   ⟨fun h ↦ by simp [h], fun h ↦ ext_circuit h.1 fun C hC ↦ h.2 (C := C)⟩
 
+section Elimination
+
+/-! ### Circuit Elimination -/
+
+variable {ι : Type*} (x : ι → α) (Is Cs : ι → Set α) {z : α} {C₁ C₂ : Set α}
```
Comment (madvorak) [inline Mathlib/Data/Matroid/Circuit.lean:343]: I'd rather not see explicit arguments in `variable` hiding from the actual declarations.
Also the names `Is Cs` are not idiomatic for functions.

**Review by madvorak — APPROVED** [review]

File: Mathlib/Data/Matroid/Circuit.lean [hunk 3]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
     M₁ = M₂ ↔ M₁.E = M₂.E ∧ ∀ C, M₁.Circuit C ↔ M₂.Circuit C :=
   ⟨fun h ↦ by simp [h], fun h ↦ ext_circuit h.1 fun C hC ↦ h.2 (C := C)⟩
 
+section Elimination
+
+/-! ### Circuit Elimination -/
+
+variable {ι : Type*} (x : ι → α) {z : α} {C₁ C₂ : Set α}
```
Comment (madvorak) [inline Mathlib/Data/Matroid/Circuit.lean:343]: Can `x` be implicit?

**Review by madvorak — APPROVED** [review]

File: Mathlib/Data/Matroid/Circuit.lean (hunk 3 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:343]: It can, but I think it is more commonly explicit in use cases.

File: Mathlib/Data/Matroid/Circuit.lean [hunk 4]
```diff
@@ -293,6 +281,35 @@ lemma indep_iff_forall_subset_not_circuit (hI : I ⊆ M.E := by aesop_mat) :
...
+    (fun he ↦ by rw [diff_singleton_eq_self he])
+
+lemma Circuit.subset_closure_diff_singleton (hC : M.Circuit C) (e : α) :
+    C ⊆ M.closure (C \ {e}) := by
+  rw [hC.closure_diff_singleton_eq]
+  exact M.subset_closure _ hC.subset_ground
+
+lemma Circuit.mem_closure_diff_singleton_of_mem (hC : M.Circuit C) (heC : e ∈ C) :
+    e ∈ M.closure (C \ {e}) :=
+  (hC.subset_closure_diff_singleton e) heC
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:299]:
```suggestion
  hC.subset_closure_diff_singleton e heC
```

File: Mathlib/Data/Matroid/Circuit.lean (hunk 3 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/Circuit.lean:343]: In this case, I strongly prefer it to appear with individual declarations.

File: Mathlib/Data/Matroid/Circuit.lean [hunk 5]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+  rw [union_diff_distrib, union_comm]
+  exact union_subset_union_left _ diff_subset
+
+/-- A generalization of the strong circuit elimination axiom `Matroid.Circuit.strong_elimination`
+to an infinite collection of circuits.
+This version is one of the axioms when defining infinite matroids via circuits.
+
+TODO : A similar statement will hold even when all mentions of `z` are removed. -/
+lemma Circuit.strong_multi_elimination {C₀ : Set α} (C : ι → Set α) (hC₀ : M.Circuit C₀)
+    (hC : ∀ i, M.Circuit (C i))(h_mem_C₀ : ∀ i, x i ∈ C₀) (h_mem : ∀ i, x i ∈ C i)
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:374]:
```suggestion
    (hC : ∀ i, M.Circuit (C i)) (h_mem_C₀ : ∀ i, x i ∈ C₀) (h_mem : ∀ i, x i ∈ C i)
```

File: Mathlib/Data/Matroid/Circuit.lean [hunk 6]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+/-- The strong circuit elimination axiom. For any two circuits `C₁, C₂` and all `e ∈ C₁ ∩ C₂` and
+`f ∈ C₁ \ C₂`, there is a circuit `C` with `f ∈ C ⊆ (C₁ ∪ C₂) \ {e}`. -/
+lemma Circuit.strong_elimination (hC₁ : M.Circuit C₁) (hC₂ : M.Circuit C₂) (heC₁ : e ∈ C₁)
+    (heC₂ : e ∈ C₂) (hfC₁ : f ∈ C₁) (hfC₂ : f ∉ C₂) :
+    ∃ C ⊆ (C₁ ∪ C₂) \ {e}, M.Circuit C ∧ f ∈ C := by
+  obtain ⟨C, hCs, hC, hfC⟩ := hC₁.strong_multi_elimination (fun i : Unit ↦ e) (fun _ ↦ C₂)
+    (by simpa) (z := f) (by simpa) (by simpa) (by simp) (by simpa) (by simpa)
+  exact ⟨C, hCs.trans (diff_subset_diff (by simp) (by simp)), hC, hfC⟩
+
+/-- The circuit elimination axiom : for any pair of distinct circuits `C₁,C₂` and any `e`, some
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:406]:
```suggestion
/-- The circuit elimination axiom: for any pair of distinct circuits `C₁, C₂` and any `e`, some
```

File: Mathlib/Data/Matroid/Circuit.lean [hunk 7]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+    exact ⟨J, hJ.subset.trans (by simpa), (finite_singleton e).subset hJ.subset, hJ.indep,
+      by simpa using hJ.subset_closure⟩
+  obtain ⟨C, hCs, hC, heC⟩ := exists_circuit_of_mem_closure he heY
+  exact ⟨C \ {e}, by simpa, hC.finite.diff, hC.diff_singleton_indep heC,
+    hC.mem_closure_diff_singleton_of_mem heC⟩
+
+/-- In a finitary matroid, each finite set spanned by `X` is spanned by a finite independent
+subset of `X`. -/
+lemma exists_subset_finite_closure_of_subset_closure [M.Finitary] (hX : X.Finite)
+    (hXY : X ⊆ M.closure Y) : ∃ I ⊆ Y, I.Finite ∧ M.Indep I ∧ X ⊆ M.closure I := by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:453]: If I'm reading this correctly, it's a finite set `X` spanned by `Y` being spanned by a subset of `Y`?

As an aside, as someone who doesn't know this theory well but is interested in it, I find docstrings like these incredibly valuable!

File: Mathlib/Data/Matroid/Circuit.lean [hunk 8]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+  -- This is true because each `I i` spans `x i` and `(range x) ∪ (J \ {z})` spans `z`.
+  rw [closure_union_congr_left <| closure_iUnion_congr _ _ hC, iUnion_union_distrib,
+    iUnion_singleton_eq_range, union_right_comm]
+  refine mem_of_mem_of_subset (hJx.mem_closure_diff_singleton_of_mem (.inl hzJ))
+    (M.closure_subset_closure (subset_trans ?_ subset_union_left))
+  rw [union_diff_distrib, union_comm]
+  exact union_subset_union_left _ diff_subset
+
+/-- A generalization of the strong circuit elimination axiom `Matroid.Circuit.strong_elimination`
+to an infinite collection of circuits.
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:369]: Is it possible to describe in words what the statement is saying here? `C` is the infinite collection of circuits, I guess, but it's not clear to me what the role of `C₀` is (informally speaking). Can we also do the same for `strong_multi_elimination_insert`? (For instance, are `I` and `C` playing the same role?)

File: Mathlib/Data/Matroid/Circuit.lean [hunk 9]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
   ⟨fun h ↦ by simp [h], fun h ↦ ext_circuit h.1 fun C hC ↦ h.2 (C := C)⟩
 
+section Elimination
+
+/-! ### Circuit Elimination -/
+
+variable {ι : Type*} (x : ι → α) {z : α} {C₁ C₂ : Set α}
+
+/-- A version of `Matroid.Circuit.strong_multi_elimination` that is phrased using insertion. -/
+lemma strong_multi_elimination_insert (I : ι → Set α) (hxI : ∀ i, x i ∉ I i) {J : Set α}
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:346]:
```suggestion
lemma Circuit.strong_multi_elimination_insert (I : ι → Set α) (hxI : ∀ i, x i ∉ I i) {J : Set α}
```
for consistency with the next one

File: Mathlib/Data/Matroid/Circuit.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean:299]: Actually now that I look at it more closely, since this is just a combination of `heC` with `Circuit.subset_closure_diff_singleton`, does this lemma need to exist?

File: Mathlib/Data/Matroid/Circuit.lean [hunk 10]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+
+/-- A generalization of the strong circuit elimination axiom `Matroid.Circuit.strong_elimination`
+to an infinite collection of circuits.
+This version is one of the axioms when defining infinite matroids via circuits.
+
+TODO : A similar statement will hold even when all mentions of `z` are removed. -/
+lemma Circuit.strong_multi_elimination {C₀ : Set α} (C : ι → Set α) (hC₀ : M.Circuit C₀)
+    (hC : ∀ i, M.Circuit (C i))(h_mem_C₀ : ∀ i, x i ∈ C₀) (h_mem : ∀ i, x i ∈ C i)
+    (h_unique : ∀ ⦃i i'⦄, x i ∈ C i' → i = i') (hzC₀ : z ∈ C₀) (hzC : ∀ i, z ∉ C i) :
+    ∃ C' ⊆ (C₀ ∪ ⋃ i, C i) \ range x, M.Circuit C' ∧ z ∈ C' := by
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:376]: This version of the statement is for an indexed family of circuits, is it useful to also have a set family version? That is, `C : Set (Set α)` such that everything in `C` is a circuit. (If so, it doesn't need to be in this PR)

File: Mathlib/Data/Matroid/Circuit.lean (hunk 3 above)
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean:343]: It is increasingly more common (but not 100% required) for explicit arguments to be avoided in `variable` declarations, for ease of reading. In this case, I think that rule of thumb is sensible: certainly the first point of confusion I had when reading the strong elimination lemmas was "where did this `x` thing come from?", particularly because `C0` and `C` are written there.

File: Mathlib/Data/Matroid/Circuit.lean [hunk 11]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+  -- `z` is spanned by the union of the `I` and `J \ {z}`.
+  obtain hι | hι := isEmpty_or_nonempty ι
+  · exact ⟨J, by simp, by simpa [range_eq_empty] using hJx, hzJ⟩
+  suffices hcl : z ∈ M.closure ((⋃ i, I i) ∪ (J \ {z})) by
+    rw [mem_closure_iff_exists_circuit_of_not_mem (by simp [hzI])] at hcl
+    obtain ⟨C', hC'ss, hC', hzC'⟩ := hcl
+    refine ⟨C', ?_, hC', hzC'⟩
+    rwa [union_comm, ← insert_union, insert_diff_singleton, insert_eq_of_mem hzJ] at hC'ss
+  replace hC := show ∀ (i : ι), M.closure (I i) = M.closure ({x i} ∪ (I i))
+    by simpa [diff_singleton_eq_self (hxI _)] using fun i ↦ (hC i).closure_diff_singleton_eq (x i)
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:359]:
```suggestion
  replace hC : ∀ (i : ι), M.closure (I i) = M.closure ({x i} ∪ (I i)) := by 
    simpa [diff_singleton_eq_self (hxI _)] using fun i ↦ (hC i).closure_diff_singleton_eq (x i)
```

File: Mathlib/Data/Matroid/Circuit.lean [hunk 12]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+  simp only [mem_diff, mem_singleton_iff, not_and, not_not]
+  exact fun i hzi ↦ (hzC i hzi).elim
+
+/-- The strong circuit elimination axiom. For any two circuits `C₁, C₂` and all `e ∈ C₁ ∩ C₂` and
+`f ∈ C₁ \ C₂`, there is a circuit `C` with `f ∈ C ⊆ (C₁ ∪ C₂) \ {e}`. -/
+lemma Circuit.strong_elimination (hC₁ : M.Circuit C₁) (hC₂ : M.Circuit C₂) (heC₁ : e ∈ C₁)
+    (heC₂ : e ∈ C₂) (hfC₁ : f ∈ C₁) (hfC₂ : f ∉ C₂) :
+    ∃ C ⊆ (C₁ ∪ C₂) \ {e}, M.Circuit C ∧ f ∈ C := by
+  obtain ⟨C, hCs, hC, hfC⟩ := hC₁.strong_multi_elimination (fun i : Unit ↦ e) (fun _ ↦ C₂)
+    (by simpa) (z := f) (by simpa) (by simpa) (by simp) (by simpa) (by simpa)
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:403]: The `(z := f)` here suggests that maybe it should be explicit in `strong_multi_elimination`?

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:376]: This is a little tricky, because the `x i` are tied to the circuits `C i` via `h_unique`.

Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean:376]: I see, that makes sense. Would it work to say we have a set of `x`, and each one is in a unique circuit?

File: Mathlib/Data/Matroid/Circuit.lean [hunk 13]
```diff
@@ -319,4 +336,128 @@ lemma ext_iff_circuit {M₁ M₂ : Matroid α} :
...
+  -- we may assume that `ι` is nonempty, and it suffices to show that
+  -- `z` is spanned by the union of the `I` and `J \ {z}`.
+  obtain hι | hι := isEmpty_or_nonempty ι
+  · exact ⟨J, by simp, by simpa [range_eq_empty] using hJx, hzJ⟩
+  suffices hcl : z ∈ M.closure ((⋃ i, I i) ∪ (J \ {z})) by
+    rw [mem_closure_iff_exists_circuit_of_not_mem (by simp [hzI])] at hcl
+    obtain ⟨C', hC'ss, hC', hzC'⟩ := hcl
+    refine ⟨C', ?_, hC', hzC'⟩
+    rwa [union_comm, ← insert_union, insert_diff_singleton, insert_eq_of_mem hzJ] at hC'ss
+  replace hC := show ∀ (i : ι), M.closure (I i) = M.closure ({x i} ∪ (I i))
```
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:358]: It's because there is no distributivity lemma for insertion and iUnions. This felt out of scope, and the workaround wasn't so bad here.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 9 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/Circuit.lean:346]: I agree with @apnelson1 here.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:376]: Let me try!

File: Mathlib/Data/Matroid/Circuit.lean (hunk 4 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean:299]: It gets a bit of use in the repo, and its use reduces defeq abuse by epsilon, so I prefer to have it around.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 7 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean]: Thanks for spotting that!

File: Mathlib/Data/Matroid/Circuit.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean]: Hmm, I see. I agree it's out of scope, but I feel a solution which is better for mathlib overall would be to have a different PR which adds the missing distributivity lemma, then use that lemma here

File: Mathlib/Data/Matroid/Circuit.lean (hunk 9 above)
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean]: I do still think it's a good idea. I agree that the value of dot notation here is diminished, but the benefits are still there:
- the family of elimination lemmas all have similar names, which aids understanding when reading the docs
- when searching or using vscode completion, the substring "Circuit" still shows up

File: Mathlib/Data/Matroid/Circuit.lean (hunk 4 above)
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean]: I'm not quite certain epsilon is nonzero here, but let's go with it for now!

File: Mathlib/Data/Matroid/Circuit.lean [hunk 14]
```diff
@@ -293,6 +281,35 @@ lemma indep_iff_forall_subset_not_circuit (hI : I ⊆ M.E := by aesop_mat) :
...
+  hC.subset_closure_diff_singleton e heC
+
+lemma exists_circuit_of_mem_closure (he : e ∈ M.closure X) (heX : e ∉ X) :
+    ∃ C ⊆ insert e X, M.Circuit C ∧ e ∈ C :=
+  let ⟨I, hI⟩ := M.exists_basis' X
+  ⟨_, (fundCircuit_subset_insert ..).trans (insert_subset_insert hI.subset),
+    hI.indep.fundCircuit_circuit (by rwa [hI.closure_eq_closure]) (not_mem_subset
+    hI.subset heX), M.mem_fundCircuit e I⟩
+
+lemma mem_closure_iff_exists_circuit_of_not_mem (he : e ∉ X) :
```
Comment (b-mehta) [inline Mathlib/Data/Matroid/Circuit.lean:308]:
```suggestion
lemma mem_closure_iff_exists_circuit (he : e ∉ X) :
```
I think this is clear enough. More importantly though, let's keep the name of this and the name of `exists_circuit_of_mem_closure` consistent: either both should have `of_not_mem`, or neither.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 10 above)
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean]: Nice! It turned out well!

File: Mathlib/Data/Matroid/Circuit.lean (hunk 9 above)
Comment (madvorak) [reply Mathlib/Data/Matroid/Circuit.lean]: I am on the side of having a better dot notation.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean]: #21267

[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean]: haha! I just realized that while that PR was reasonable, it wasn't actually the lemma I needed here.

[the remark this answers is not in the document]
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean]: #21322

File: Mathlib/Data/Matroid/Circuit.lean (hunk 9 above)
Comment (apnelson1) [reply Mathlib/Data/Matroid/Circuit.lean]: I've added it into the namespace. The dot notation isn't worse, it is just unavailable for this lemma in either case.

File: Mathlib/Data/Matroid/Circuit.lean (hunk 13 above)
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Data/Matroid/Circuit.lean]: Nice, thanks!

**Comment by b-mehta** [comment]
Thank you!

bors merge
